US07132457B2
b) 5-Bromomethyl-2-chloro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide
To a stirred solution of 5-bromomethyl-2-chloro-benzoic acid (Example 71 a, 12.4 g) in dichloromethane (250 ml) and dimethylformamide (0.12 ml) at 0° C. was added oxalyl chloride (8.7 ml). The cooling bath was removed and the solution allowed to warm to room temperature. Once gas evolution had ceased the solution was concentrated in vacuo. The residue was redissolved in dichloromethane (300 ml), cooled to 0° C. and treated with diisopropylethylamine (12.4 ml) and adamantylmethylamine (7.54 ml). After 15 min at 0° C. the solution was poured into diethyl ether (1 L) and washed with 1N aqueous hydrochloric acid followed by brine. The organics were dried over magnesium sulphate and concentrated in vacuo to give the title compound as a white powder (19 g)

reactant | 5-bromomethyl-2-chloro-benzoic acid | BrCC=1C=CC(=C(C(=O)O)C1)Cl | C8H6BrClO2
reactant | dimethylformamide | 0.12 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 8.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 5-Bromomethyl-2-chloro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 19 g | BrCC=1C=CC(=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C1)Cl | C19H23BrClNO
